US07501414B2
4a 2-Cyclopentyl-N-(2,6-dimethyl-4-morpholin-4-yl-phenyl)-acetamide
2,6-Dimethyl-4-morpholin-4-yl-phenylamine (0.50 g) and cyclopentylacetyl chloride (0.53 mL) were dissolved in acetonitrile (5 mL) and heated to 150° C. for 10 minutes in a sealed microwave process vial. Water (25 mL) was added and the product was extracted with ethyl acetate (3×25 mL). The organic phases were washed with brine (50 mL), dried over magnesium sulfate and concentrated in vacuo. The crude product was purified by flash chromatography to furnish 0.138 g (20%) of the title compound as an off-white solid. LC-MS-TOF (m/z) 317 (MH+); tR=1.93, (UV, ELSD) 95%, 100%. 1H NMR (500 MHz, DMSO-d6): 1.21 (m, 2H), 1.52 (m, 2H), 1.61 (m, 2H), 1.76 (m, 2H), 2.07 (s, 6H), 2.11 (m, 1H), 2.25 (d, 2H), 3.05 (dd, 4H), 3.71 (dd, 4), 6.63 (s, 2H), 8.94 (s, 1H).

reactant | 2,6-Dimethyl-4-morpholin-4-yl-phenylamine | 0.50 g | CC1=C(C(=CC(=C1)N1CCOCC1)C)N | C12H18N2O
reactant | cyclopentylacetyl chloride | 0.53 mL | C1(CCCC1)CC(=O)Cl | C7H11ClO
reactant | Water | 25 mL | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2-Cyclopentyl-N-(2,6-dimethyl-4-morpholin-4-yl-phenyl)-acetamide | 0.138 g, 20% | C1(CCCC1)CC(=O)NC1=C(C=C(C=C1C)N1CCOCC1)C | C19H28N2O2
